US04582837
8-(2'-n-Propyl-4'-methanesulfonyloxy-phenyl)-purine
Prepared analogously to Example 1 from 8-(2'-n-propyl-4'-hydroxy-phenyl)-purine and methanesulfonic acid chloride.

reactant | 8-(2'-n-propyl-4'-hydroxy-phenyl)-purine | C(CC)C1=C(C=CC(=C1)O)C1=NC2=NC=NC=C2N1 | C14H14N4O
reactant | methanesulfonic acid chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 8-(2'-n-Propyl-4'-methanesulfonyloxy-phenyl)-purine | C(CC)C1=C(C=CC(=C1)OS(=O)(=O)C)C1=NC2=NC=NC=C2N1 | C15H16N4O3S
